Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, eye pain 
 
Major Surgical or Invasive Procedure:
LP

 
History of Present Illness:
Mr. ___ is a ___ male with hypertension, migraine
headaches, and psoriasis who presented with 2 days of fevers,
myalgia, and eye pain and is admitted for workup.  

The patient was in his usual state of health until he began to
feel general malaise on ___. He thought he was
developing a flu-like illness so he went to bed early that 
night.
The following day, ___, he began to experience fevers,
chills, rigors, fatigue, and body aches. These symptoms worsened
throughout the next ___ hours. On ___, he developed a dry 
cough
and began to experience bilateral eye burning and photophobia.
The photophobia was concerning to him so he presented to the ___. 

At ___ he underwent slit lamp exam was unremarkable but
he was noted to have injected sclera. Exam was otherwise
reassuring. On labs he was noted to have hyponatremia (to 133),
thrombocytopenia (plt 100), hyperbilirubinemia (Tbili 2.4), and
elevated alk phos and AST. Anaplasma, Babesia, Borrelia, Lyme,
and blood cultures were sent and pending. There was no
consolidation or acute process on CXR. Ophthalmology was
contacted who recommended an ophthlmalogic evaluation given his
symptoms. There was no opthalmologist available at ___
so he was transferred to ___ in ___ for eye exam. Prior to
transfer he was given CTX 1gm IV, erythromycin ointment for his
eyes, and Ketorolac 15mg x1. 

In the ___ ED:  
- Initial vital signs were notable for: Tmax 102.8, HR 39 - 70,
normotensive, and SpO2 99% RA. 

- Exam notable for: MIld conjunctival injection, no meningismus,
AOx3, normal neuro exam, soft and nontender abdomen,
cardiopulmonary exam reassuring.  

- Labs were notable for: Normal Hgb and WBC. Plt 68, CRP 116.3,
AST 51, Tbili 1.7, Bicarb 18, lactate 2.3

- Studies performed include: LP with 2 WBC, 29 prot, Glc 66;
negative gram stain. Parasite smear x1 negative. RUQUS w/ 6.1 cm
hypoechoic avascular structure in R kidney but otherwise
reassuring. NCHCT without midline shift (limited study). CT
orbits with no acute intraorbital findings.   
 
- Patient was given: LR, Tylenol, compazine, benadryl, oxycodone

- Consults: Ophthalmology examined the patient and felt his exam
was c/w bilateral conjunctival injection bilaterally without any
other abnormalities. 

Upon arrival to the floor, the patient's symptoms have begun to
improve. His eyes feel significantly better and he is not
experiencing myalgia or subjective fevers. He denies any rash,
recent tick exposures, animal exposures, or travel but he has
been doing a lot of yard work over the past couple of weeks. No
recent medication changes. He has never been told that he has 
low
blood counts or liver problems in the past.
 
Past Medical History:
HTN, psoriasis, prior head injury 1970s
 
Social History:
___
Family History:
Mother died of ovarian cancer in ___
Father died of renal cancer in ___ decade 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
___ 2336 Temp: 99.8 PO BP: 130/69 HR: 52 RR: 18 O2 sat: 98%
O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Bilateral Sclera injected. MMM.  
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rashes on full-body skin exam.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Bilateral Sclera injected. MMM.  
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rashes on full-body skin exam.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

 
Pertinent Results:
___ 04:57AM BLOOD WBC-3.1* RBC-4.41* Hgb-13.8 Hct-40.5 
MCV-92 MCH-31.3 MCHC-34.1 RDW-12.9 RDWSD-43.2 Plt Ct-81*
___ 09:00AM BLOOD WBC-5.7 RBC-4.50* Hgb-14.1 Hct-41.6 
MCV-92 MCH-31.3 MCHC-33.9 RDW-12.9 RDWSD-43.7 Plt Ct-90*
___ 09:00AM BLOOD Glucose-127* UreaN-9 Creat-0.8 Na-141 
K-4.1 Cl-105 HCO3-25 AnGap-11
___ 04:57AM BLOOD ALT-36 AST-58* LD(LDH)-436* AlkPhos-50 
TotBili-1.4
___ 09:00AM BLOOD Calcium-8.2* Phos-3.3 Mg-1.8
___ 12:22PM BLOOD CRP-116.3*
___ 12:22PM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
___ 12:50PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:50PM URINE RBC-3* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 08:30PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 05:00PM CEREBROSPINAL FLUID (CSF) TNC-2 RBC-4 Polys-0 
___ ___ 05:00PM CEREBROSPINAL FLUID (CSF) TotProt-29 Glucose-66
 
 
___ 12:22 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ (___) @1217 ON 
___. 
      GRAM POSITIVE COCCI IN CLUSTERS. 

Liver Ultrasound
 
IMPRESSION:  
  
1.  No biliary dilatation. 
2.  An incompletely characterized 6.1 cm hypoechoic, 
multi-septated, avascular 
structure is seen in the lower pole of the right kidney. 
  
RECOMMENDATION(S):  Recommend CT or MR with contrast for further 
evaluation of 
the 6.1 cm right renal lesion, if not previously done. 

 
Brief Hospital Course:
==================== 
Mr. ___ is a ___ male with hypertension, migraine
headaches, and psoriasis who presented with 2 days of fevers,
myalgia, and eye pain and is admitted for workup, treated 
empirically for anaplasmosis.

ACUTE ISSUES: 
============= 
#GPC bacteremia
Coag negative staph, likely contaminant. Received vanc while 
waiting for speciation.

#Fever
#Myalgia
#Leukopenia
#Thrombocytopenia
#Transaminitis
The symptoms of fevers and myalgia iso thrombocytopenia, 
leukopenia, and elevated LFTs, is concerning for tick borne 
illness, such as Anaplasma/Erlichia. Anaplasma serologies 
pending at time of doscharge. Given doxycycline for 10d course 
___

#Conjunctivitis 
Bilateral conjunctival injection with burning. Exam and visual 
acuity reassuring. Seen by optho who did not find anything 
concerning.

#Microscopic Hematuria 
There was noted to be a 6.1 cm hypoechoic avascular structure in 
R kidney. Given family history of renal cancer and hematuria 
this lesion should be evaluated further with cross-sectional 
imaging as an outpatient.
-- TI: Cross-sectional imaging of kidney lesion 
-- TI: Repeat UA to confirm microscopic hematuria 

CHRONIC ISSUES: 
=============== 
#HTN. Continued lisinopril 

#BPH. Continued finasteride

#Psoriasis

TRANSITIONAL ISSUES:
====================
[] Should have cross-sectional imaging of kidney lesion if this 
is changed from prior (per patient had recent MRI for kidney 
lesion)
[] Please repeat UA to confirm microscopic hematuria 
[] Please follow up pending anaplasma PCR to confirm diagnosis
[] Please repeat CBC and LFTs at PCP follow up to confirm 
resolution

#CONTACT: 
Name of health care proxy: ___ ___

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 5 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Fluocinonide 0.05% Cream 1 Appl TP BID 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*18 Tablet Refills:*0 
2.  Finasteride 5 mg PO DAILY  
3.  Fluocinonide 0.05% Cream 1 Appl TP BID  
4.  Lisinopril 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
anaplasmosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___.

WHY WAS I HERE?
-You were having high fevers

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
-You were found to have lab values that are likely from a 
tick-borne illness called anaplasma
-You were given antibiotics

WHAT SHOULD I DO WHEN I GO HOME?
-You should take your antibiotics as prescribed

Be well!

Your ___ Care Team
 
Followup Instructions:
___